US09056859B2
Step E: 5-allyl-4-chloro-2-benzofuran-1(3H)-one
To a flask charged with 5-bromo-4-chloro-2-benzofuran-1(3H)-one (190 mg, 0.77 mmol) and a stir bar was added allyl tri-n-butyltin (0.36 mL, 1.2 mmol), PdCl2(dppf)-DCM complex, lithium chloride (0.098 mg, 2.3 mmol), and toluene (5 mL). The flask was fitted with a condensor, purged three times with nitrogen, and heated to reflux for 6 hours. LC showed complete reaction, and crude material was purified by MPLC to deliver 5-allyl-4-chloro-2-benzofuran-1(3H)-one. LC-MS (IE, m/z): 209 [M+1]+;

reactant | 5-bromo-4-chloro-2-benzofuran-1(3H)-one | 0.77 mmol, 190 mg | BrC1=C(C2=C(C(OC2)=O)C=C1)Cl | C8H4BrClO2
reactant | allyl tri-n-butyltin | 1.2 mmol, 0.36 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 2.3 mmol, 0.098 mg | [Cl-].[Li+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 5-allyl-4-chloro-2-benzofuran-1(3H)-one | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)Cl | C11H9ClO2
